US04880812
(f) Preparation of N-[4-[3-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino]benzoyl]-L-glutamic acid
A stirred solution of 1.60 g (2.89 mmol) of dimethyl N-[4-[3-(2,4-bis(acetamido)-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino]benzoyl]-L-glutamate, 50 ml of ethanol and 100 ml of 1 N sodium hydroxide was heated at 50°-60° for 20 hours. The cooled reaction was spin evaporated in vacuo to 50 ml, cooled, and neutralized to pH 5-6 with concentrated hydrochloric acid. The resultant white precipitate was collected, washed with water, diethylether and dried; yield, 0.86 g (66%) mp (sinter 170°) 198°-202° (eff). Recrystallization from methanol gave the analytical sample; yield, 0.33 g (39%), mp (forms hard foam 180°) 200° (eff); TLC (pyridine:BuOH:H2O/1:1:1); NMR (DMSO-D6)δ8.07 (d, 1H, ArCONH), 7.65 (d, 2H, ArH), 6.54 (d, 2H, ArH), 6.22 (br s, 1H, CH2NH), 5.94 (s, 2H, NH2), 5.75 (s, 2H, NH2), 4.34 (m, 1H, CHCO2H), 3.03 (m, 2H, CH2NHAr), 2.30 (m, 4H, pyrimidine-CH2 and CH2CO2H), 2.03 (m, 2H, CHCH2), 1.58 (m, 2H, CH2CH2CH2).

reactant | dimethyl N-[4-[3-(2,4-bis(acetamido)-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino]benzoyl]-L-glutamate | 2.89 mmol, 1.60 g | C(C)(=O)NC=1NC(C(=C(N1)NC(C)=O)CCCNC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=O | C25H32N6O8
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1 N, 100 ml | [OH-].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
solvent | BuOH | C(CCC)O | C4H10O
product | N-[4-[3-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino]benzoyl]-L-glutamic acid | NC=1NC(C(=C(N1)N)CCCNC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)=O | C19H24N6O6
